2102-11-22 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2102-11-21**] 02:12 PM
 MULTI LUMEN (Subclavian central line) - START [**2102-11-21**] 06:55 PM
 ARTERIAL LINE - START [**2102-11-21**] 08:00 PM
 BLOOD CULTURED - At [**2102-11-21**] 08:04 PM
   from central and arterial lines
 SPUTUM CULTURE - At [**2102-11-21**] 08:04 PM
   via ett
 FEVER - 102.8
F - [**2102-11-21**] 04:00 PM
   - Urine output and MAP, CVP responded well to fluid boluses, but would
   subsequently drift down again.  BP as low as 73/40, responded to NS
   bolus.  Required 6 boluses of NS IVF overnight.
   - Weaned off Levophed, but this morning SBP down to 80
s despite
   multiple NS boluses, re-started on low dose Levophed.
   - Will contact ortho re: anticoagulation
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2102-11-21**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-11-22**] 12:00 AM
   Ciprofloxacin - [**2102-11-22**] 04:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-11-22**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-22**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.2
C (98.9
   HR: 88 (81 - 126) bpm
   BP: 127/60(88) {107/40(5) - 165/66(96)} mmHg
   RR: 14 (14 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.5 kg (admission): 71.3 kg
    CVP: 12 (2 - 13)mmHg
   Total In:
                                                                  8,234 mL
                                                                  2,747 mL
   PO:
   TF:
   IVF:
                                                                  8,114 mL
                                                                  2,627 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    760 mL
   Urine:
                                                                    840 mL
                                                                    410 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  6,594 mL
                                                                  1,987 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 349 (349 - 349) mL
   RR (Set): 14
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 31 cmH2O
   Plateau: 20 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/39/170/30/3
   Ve: 12.1 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Intubated, sedate but interactive, follows
   commands, NAD
   CV:  RRR, no m/g/r
   Pulm:  Rhonchi b/l
   Abdominal: Soft, NT, distended, no tympany, Bowel sounds present
   Extremities: 2+ pedal edema b/l, RLE cooler than LLE (unchanged), 2+ DP
   pulses b/l
   Neurologic: Responds to verbal stimuli, follows commands
   Labs / Radiology
   232 K/uL
   7.8 g/dL
   118 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.1 mEq/L
   19 mg/dL
   104 mEq/L
   140 mEq/L
   22.6 %
   11.8 K/uL
        [image002.jpg]
                             [**2102-11-21**]  12:34 PM
                             [**2102-11-21**]  03:00 PM
                             [**2102-11-21**]  05:45 PM
                             [**2102-11-21**]  07:33 PM
                             [**2102-11-21**]  07:59 PM
                             [**2102-11-22**]  01:56 AM
                             [**2102-11-22**]  02:04 AM
   WBC
   9.6
   14.1
   11.8
   Hct
   18.0
   24.7
   22.6
   Plt
   233
   283
   232
   Cr
   0.8
   1.0
   0.9
   TCO2
   38
   25
   28
   Glucose
   151
   86
   89
   118
   Other labs: PT / PTT / INR:14.1/40.7/1.2, ALT / AST:71/147, Alk Phos /
   T Bili:339/1.4, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:259 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.0 mg/dL, PO4:2.7 mg/dL
   Imaging: [**11-21**] CXR:
   Preliminary Report !! WET READ !!
   ET tube 4cm above carina. Progressive right basilar consolidation
   concerning
   for infection. Persistent left retrocardiac oacity, likely atelectasis
   but
   cannot exclude infection. Small left effusion, similar to 6 hour prior.
   Microbiology: Sputum [**11-21**]:
   GRAM STAIN (Final [**2102-11-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
   [**11-21**] BCx, UCx pending
   Assessment and Plan
 OSTEOMYELITIS
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   76 y/o male with multiple medical problems and respiratory failure,
   presenting s/p vertebrectomy and epidural abscess drainage with septic
   shock.
   .
   # Respiratory distress: Likely secondary to PNA given time course,
   fever, clinical exam.  Will expand to cover gram negatives, anerobes
   (although no witnessed aspiration) with Zosyn, double cover pseudomonas
   with ciprofloxacin. There is a component of atelectasis given ileus and
   abdominal distension as well as post-op pain.  PE would be on
   differential but less likely given lung findings and proximity to
   orthopedic event.  Patient also having frequent mucous plugging with
   secretions.
   - Continue Vanc/Zosyn/Cipro for HAP
   - Wean off vent as tolerated
   - Nebulizers for wheezing
   .
   # Fever: Likely secondary to pneumonia/sepsis.
   - f/u sputum/blood/urine CX
   - Empiric coverage as above.
   .
   # Illeus: Continued secretions from NGT, beginning to have bowel
   movements with digital disimpaction.  Resolving ileus.
   - Cap NGT and drain this afternoon to determine volume of secretions
   - Bowel regimen
   .
   # Anemia:  Stable, but goal to have hct closer to 30 in the setting of
   septic shock.
   - Transfuse 2 units PRBC today
   .
   # DM: Continue insulin sliding scale, adjusted dose downwards given NPO
   status.
   .
   # Osteomyelitis s/p vertebrectomy: Continue vancomycin per ID
   recommendations, pain control, regular care per orthopedics.
   - Contact ortho re: anticoagulation with Lovenox following surgery
   .
   # Sinus Tachycardia: Likely secondary to stress, infection.  No
   evidence of ischemia on EKG.  Will continue to follow.
   .
   # Hypertension: Holding medications at this time, will titrate as
   needed.
   .
   # Altered mental status: Mildly altered in context of multiple
   physiologic insults, post-operative.  Will continue to follow.
   Currently interactive and following commands; will monitor mental
   status once weaned off vent.
   .
   FEN: Maintenace @ 100cc/hr, replete electrolytes, NPO--will require
   speech & swallow once stable.
   .
   Prophylaxis: Subcutaneous heparin, will d/w ortho if needs to be on
   lovenox.
   .
   Access: peripherals, R subclavian triple lumen, L arterial line
   .
   Code:  Full (discussed with family)
   .
   Communication: Patient, family
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-11-21**] 12:26 PM
   22 Gauge - [**2102-11-21**] 12:29 PM
   Multi Lumen - [**2102-11-21**] 06:55 PM
   Arterial Line - [**2102-11-21**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-11-22 10:26:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo man with post-op PNA from spine surgery, and septic shock.  BP
   has been labile, responding
   to boluses and on/off low dose levophed.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2102-11-21**] 02:12 PM
 MULTI LUMEN - START [**2102-11-21**] 06:55 PM
 ARTERIAL LINE - START [**2102-11-21**] 08:00 PM
 BLOOD CULTURED - At [**2102-11-21**] 08:04 PM
   from central and arterial lines
 SPUTUM CULTURE - At [**2102-11-21**] 08:04 PM
   via ett
 FEVER - 102.8
F - [**2102-11-21**] 04:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-11-22**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-11-22**] 07:17 AM
   Vancomycin - [**2102-11-22**] 08:04 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 75 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-11-22**] 07:17 AM
   Other medications:
   NS at 100cc/hour
   chlorhex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-22**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.8
   Tcurrent: 36.6
C (97.8
   HR: 95 (81 - 126) bpm
   BP: 136/52(80) {107/40(5) - 165/66(96)} mmHg
   RR: 11 (11 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.5 kg (admission): 71.3 kg
   CVP: 7 (2 - 13)mmHg
   Total In:
                                                                  8,234 mL
                                                                  3,455 mL
   PO:
   TF:
   IVF:
                                                                  8,114 mL
                                                                  3,335 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    975 mL
   Urine:
                                                                    840 mL
                                                                    625 mL
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  6,594 mL
                                                                  2,480 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 349 (349 - 349) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.43/39/170/30/3
   Ve: 8.8 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Bronchial: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.8 g/dL
   232 K/uL
   116
   0.9 mg/dL
   30 mEq/L
   3.2 mEq/L
   19 mg/dL
   104 mEq/L
   140 mEq/L
   22.6 %
   11.8 K/uL
        [image002.jpg]
                             [**2102-11-21**]  12:34 PM
                             [**2102-11-21**]  03:00 PM
                             [**2102-11-21**]  05:45 PM
                             [**2102-11-21**]  07:33 PM
                             [**2102-11-21**]  07:59 PM
                             [**2102-11-22**]  01:56 AM
                             [**2102-11-22**]  02:04 AM
                             [**2102-11-22**]  07:00 AM
   WBC
   9.6
   14.1
   11.8
   Hct
   18.0
   24.7
   22.6
   Plt
   233
   283
   232
   Cr
   0.8
   1.0
   0.9
   TCO2
   38
   25
   28
   Glucose
   151
   86
   89
   118
   116
   Other labs: PT / PTT / INR:14.1/40.7/1.2, ALT / AST:71/147, Alk Phos /
   T Bili:339/1.4, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:259 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 OSTEOMYELITIS
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   Septic shock:  PNA, on vanco/cefepime/cipro.
   CVP: 9.  Will give some blood to expand intravascular volume.
   respiratory failure:  wean to PSV.
    ileus:  can stop NGT suction and check q4h.
   s/p spine surgery for vertebral osteo/paraspinal abscess
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-11-21**] 12:26 PM
   22 Gauge - [**2102-11-21**] 12:29 PM
   Multi Lumen - [**2102-11-21**] 06:55 PM
   Arterial Line - [**2102-11-21**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2102-11-23 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - 2 units blood given and Hct bumped 22 to 28
   - per ID, changed vanco dose from 1gm IV q12 to 750mg IV q12 (note:
   pharmacy thought the dose of 1gm IV q12 was reasonable); vanco trough
   22 in the evening
   Extubated during rounds the morning of [**11-23**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-11-22**] 04:00 AM
   Vancomycin - [**2102-11-22**] 11:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-11-23**] 12:11 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-11-23**] 12:11 AM
   Heparin Sodium (Prophylaxis) - [**2102-11-23**] 12:11 AM
   Midazolam (Versed) - [**2102-11-23**] 03:09 AM
   Fentanyl - [**2102-11-23**] 03:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-23**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 92 (81 - 98) bpm
   BP: 116/89(102) {92/41(58) - 147/89(102)} mmHg
   RR: 24 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.5 kg (admission): 71.3 kg
    CVP: 6 (5 - 42)mmHg
   Total In:
                                                                  6,185 mL
                                                                    251 mL
   PO:
   TF:
   IVF:
                                                                  5,092 mL
                                                                    251 mL
   Blood products:
                                                                    633 mL
   Total out:
                                                                  1,760 mL
                                                                    365 mL
   Urine:
                                                                  1,200 mL
                                                                    285 mL
   NG:
                                                                    560 mL
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  4,425 mL
                                                                   -114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 475 (344 - 528) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 15 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.43/40/105/24/1
   Ve: 5.9 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General: Intubated, interactive, follows commands, NAD. Then, extubated
   during rounds.
   CV:  RRR, no m/g/r.
   Pulm:  Rhonchi b/l
   Abdominal: Soft, mild TTP, mildly distended, bowel sounds present.
   Extremities: 2+ pedal and hand edema b/l. Left finger tips
   purple-tinged.
   Neurologic: Responds to verbal stimuli, follows commands.
   Labs / Radiology
   279 K/uL
   9.4 g/dL
   149 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   21 mg/dL
   105 mEq/L
   138 mEq/L
   27.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2102-11-22**]  01:56 AM
                             [**2102-11-22**]  02:04 AM
                             [**2102-11-22**]  07:00 AM
                             [**2102-11-22**]  02:00 PM
                             [**2102-11-22**]  03:37 PM
                             [**2102-11-22**]  07:18 PM
                             [**2102-11-22**]  07:41 PM
                             [**2102-11-23**]  02:42 AM
                             [**2102-11-23**]  02:58 AM
                             [**2102-11-23**]  06:32 AM
   WBC
   11.8
   13.7
   Hct
   22.6
   28.6
   27.4
   Plt
   232
   279
   Cr
   0.9
   0.9
   TCO2
   28
   30
   29
   29
   27
   Glucose
   118
   116
   146
   131
   149
   Other labs: PT / PTT / INR:13.4/39.0/1.1, ALT / AST:71/147, Alk Phos /
   T Bili:339/1.4, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:259 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
[**2102-11-21**] 8:09 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2102-11-21**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
      SMEAR REVIEWED; RESULTS CONFIRMED.
   RESPIRATORY CULTURE (Preliminary):
      Further incubation required to determine the presence or absence of
      commensal respiratory flora.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
   CXR: my read: increased haze at left upper lobe.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OSTEOMYELITIS
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   76 y/o male with multiple medical problems and respiratory failure,
   presenting s/p vertebrectomy and epidural abscess drainage with septic
   shock.
   .
   # Respiratory distress: Likely secondary to PNA given time course,
   fever, clinical exam.  Will expand to cover gram negatives, anerobes
   (although no witnessed aspiration) with Zosyn, double cover pseudomonas
   with ciprofloxacin. There is a component of atelectasis given ileus and
   abdominal distension as well as post-op pain.  PE would be on
   differential but less likely given lung findings and proximity to
   orthopedic event.  Patient also having frequent mucous plugging with
   secretions. Extubated the morning of [**11-23**].
   - Continue Vanc/Zosyn for HAP
   - Discontinue cipro given micro data and [**Male First Name (un) 344**]
t feel need to
   double-cover pseudomonas now; follow this up with ID
   - Extubation this morning
   - Pulmonary toilet, chest PT, suction prn
   - Nebulizers for wheezing
   - Volume overloaded on exam and I>O, so 40IV lasix this morning, goal
   -2L over next 24 hours; check pm lytes
   - f/u ID consult
   .
   # Fever: Likely secondary to pneumonia/sepsis.
   - f/u sputum/blood/urine CX
   - Empiric coverage as above.
   .
   # Illeus: Continued secretions from NGT, beginning to have bowel
   movements with digital disimpaction.  Resolving ileus.
   - Keep NGT in place as safety mechanism
   - d/c PPI as no longer intubated
   - Bowel regimen
   .
   # Anemia: Bumped appropriately s/p 2 u pRBC on [**11-22**], but goal to have
   hct closer to 30 in the setting of septic shock.
   - No transfusion needed today.
   .
   # DM: Continue insulin sliding scale, adjusted dose downwards given NPO
   status.
   .
   # Osteomyelitis s/p vertebrectomy: Continue vancomycin per ID
   recommendations, pain control, regular care per orthopedics.
   - Contact ortho re: anticoagulation with Lovenox following surgery
   - Pain control with fentanyl patch as now off of fentanyl gtt
   - Morphine for breakthrough and until patch kicks into action. 1-2mg
   q4h prn pain (prefer lower dose more frequently, as elderly)
   .
   # Sinus Tachycardia: Likely secondary to stress, infection.  No
   evidence of ischemia on EKG.  Will continue to follow on telemetry.
   Resolved.
   .
   # Hypertension: Holding medications at this time, will titrate as
   needed. Pressures appropriate.
   .
   # Altered mental status: Mildly altered in context of multiple
   physiologic insults, post-operative.  Will continue to follow.
   Currently interactive and following commands; will monitor mental
   status now that extubated.
   .
   FEN: No IVF as diuresis goal today, replete electrolytes, NPO--will
   require speech & swallow once stable
 likely tomorrow.
   .
   Prophylaxis: Subcutaneous heparin, will d/w ortho if needs to be on
   lovenox.
   .
   Access: peripherals, R subclavian triple lumen, L arterial line (likely
   pull this this afternoon if stable s/p extubation)
   .
   Code:  Full (discussed with family)
   .
   Communication: Patient, family
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-11-21**] 12:26 PM
   Multi Lumen - [**2102-11-21**] 06:55 PM
   Arterial Line - [**2102-11-21**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-11-23 09:32:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo man with PNA, respiratory failure, septic shock, post vertebral
   surgery.  Extubated this morning and doing well.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-11-22**] 04:00 AM
   Vancomycin - [**2102-11-22**] 11:10 PM
   Piperacillin/Tazobactam (Zosyn) - [**2102-11-23**] 12:11 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2102-11-23**] 12:11 AM
   Heparin Sodium (Prophylaxis) - [**2102-11-23**] 12:11 AM
   Fentanyl - [**2102-11-23**] 03:09 AM
   Midazolam (Versed) - [**2102-11-23**] 03:09 AM
   Other medications:
   simvastatin
   SSI
   albuterol
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-23**] 09:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.3
C (97.3
   HR: 88 (81 - 98) bpm
   BP: 126/60(86) {92/41(58) - 147/89(102)} mmHg
   RR: 23 (11 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.5 kg (admission): 71.3 kg
   CVP: 11 (5 - 42)mmHg
   Total In:
                                                                  6,185 mL
                                                                    253 mL
   PO:
   TF:
   IVF:
                                                                  5,092 mL
                                                                    253 mL
   Blood products:
                                                                    633 mL
   Total out:
                                                                  1,760 mL
                                                                    365 mL
   Urine:
                                                                  1,200 mL
                                                                    285 mL
   NG:
                                                                    560 mL
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                  4,425 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 353 (344 - 528) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 47
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: 7.43/40/105/24/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Cool
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   279 K/uL
   149 mg/dL
   0.9 mg/dL
   24 mEq/L
   3.6 mEq/L
   21 mg/dL
   105 mEq/L
   138 mEq/L
   27.4 %
   13.7 K/uL
        [image002.jpg]
                             [**2102-11-22**]  01:56 AM
                             [**2102-11-22**]  02:04 AM
                             [**2102-11-22**]  07:00 AM
                             [**2102-11-22**]  02:00 PM
                             [**2102-11-22**]  03:37 PM
                             [**2102-11-22**]  07:18 PM
                             [**2102-11-22**]  07:41 PM
                             [**2102-11-23**]  02:42 AM
                             [**2102-11-23**]  02:58 AM
                             [**2102-11-23**]  06:32 AM
   WBC
   11.8
   13.7
   Hct
   22.6
   28.6
   27.4
   Plt
   232
   279
   Cr
   0.9
   0.9
   TCO2
   28
   30
   29
   29
   27
   Glucose
   118
   116
   146
   131
   149
   Other labs: PT / PTT / INR:13.4/39.0/1.1, ALT / AST:71/147, Alk Phos /
   T Bili:339/1.4, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:259 IU/L,
   Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OSTEOMYELITIS
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   Respiratory failure: extubated and looks good.
          - HAP:  Continue Vanco/zosyn.  Can d/c cipro
          - Will start diuresing as he is grossly fluid overloaded to
   improve respiratory status.
   s/p vertebral surgery:  will discuss with ortho about activity level
   and about anticoagulation.
   pain control:  start fentanyl patch, and add morphine for breakthrough
   Bowel regimen.  If starts having BMs, can remove NGT
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-11-21**] 12:26 PM
   Multi Lumen - [**2102-11-21**] 06:55 PM
   Arterial Line - [**2102-11-21**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2102-11-24 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-11-23**] 08:40 AM
 ARTERIAL LINE - STOP [**2102-11-23**] 03:30 PM
 MULTI LUMEN - STOP [**2102-11-23**] 05:44 PM
   - paged neurosurg about leaving recs for brace and lovenox for am.  If
   not note, would page again in am before rounds.
   - Ativan for agitation seemed to help.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-11-22**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-11-23**] 12:11 AM
   Vancomycin - [**2102-11-23**] 08:00 AM
   Piperacillin - [**2102-11-24**] 12:42 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2102-11-24**] 12:43 AM
   Furosemide (Lasix) - [**2102-11-24**] 01:42 AM
   Lorazepam (Ativan) - [**2102-11-24**] 05:05 AM
   Morphine Sulfate - [**2102-11-24**] 05:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2102-11-24**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 100 (82 - 136) bpm
   BP: 116/45(63) {116/45(63) - 173/87(105)} mmHg
   RR: 26 (19 - 41) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 76.5 kg (admission): 71.3 kg
    CVP: -2 (-2 - 12)mmHg
   Total In:
                                                                    736 mL
                                                                    141 mL
   PO:
   TF:
   IVF:
                                                                    736 mL
                                                                    141 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                  1,040 mL
   Urine:
                                                                  2,725 mL
                                                                  1,040 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,069 mL
                                                                   -899 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 353 (353 - 353) mL
   PS : 5 cmH2O
   RR (Spontaneous): 19
   PEEP: 0 cmH2O
   FiO2: 35%
   PIP: 12 cmH2O
   SpO2: 96%
   ABG: ///30/
   Ve: 9.6 L/min
   Physical Examination
   General: Intubated, interactive but incoherent, NAD.
   CV:  RRR, no m/g/r.
   Pulm:  Rhonchi b/l
   Abdominal: Soft, mild TTP, mildly distended, bowel sounds present.
   Extremities: trace pedal and hand edema b/l.
   Neurologic: Responds to verbal stimuli.
   Labs / Radiology
   340 K/uL
   11.1 g/dL
   155 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.4 mEq/L
   20 mg/dL
   99 mEq/L
   142 mEq/L
   31.5 %
   7.8 K/uL
        [image002.jpg]
                             [**2102-11-22**]  07:00 AM
                             [**2102-11-22**]  02:00 PM
                             [**2102-11-22**]  03:37 PM
                             [**2102-11-22**]  07:18 PM
                             [**2102-11-22**]  07:41 PM
                             [**2102-11-23**]  02:42 AM
                             [**2102-11-23**]  02:58 AM
                             [**2102-11-23**]  06:32 AM
                             [**2102-11-23**]  05:13 PM
                             [**2102-11-24**]  05:09 AM
   WBC
   13.7
   7.8
   Hct
   28.6
   27.4
   31.5
   Plt
   279
   340
   Cr
   0.9
   1.0
   1.3
   TCO2
   30
   29
   29
   27
   Glucose
   116
   146
   131
   149
   155
   Other labs: PT / PTT / INR:13.1/31.8/1.1, ALT / AST:71/147, Alk Phos /
   T Bili:339/1.4, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:259 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Microbiology: [**2102-11-21**] 8:09 pm SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2102-11-21**]):
         >25 PMNs and <10 epithelial cells/100X field.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS.
         SMEAR REVIEWED; RESULTS CONFIRMED.
      RESPIRATORY CULTURE (Preliminary):
         SPARSE GROWTH Commensal Respiratory Flora.
         STAPH AUREUS COAG +.    SPARSE GROWTH.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OSTEOMYELITIS
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   76 y/o male with multiple medical problems and respiratory failure,
   presenting s/p vertebrectomy and epidural abscess drainage with septic
   shock.
   .
   # Sepsis: Likely secondary to PNA given time course, fever, clinical
   exam.  Will expand to cover gram negatives, anerobes (although no
   witnessed aspiration) with Zosyn, double cover pseudomonas with
   ciprofloxacin. There is a component of atelectasis given ileus and
   abdominal distension as well as post-op pain.  PE would be on
   differential but less likely given lung findings and proximity to
   orthopedic event.  Patient also having frequent mucous plugging with
   secretions. Extubated the morning of [**11-23**].  Briefly on Cipro but
   discontinued due to micro data and no need to double-cover
   pseudomonas.  Successfully extubated, afebrile.
   - Continue Vanc/Zosyn for HAP; currently day [**3-28**]
   - d/c Cipro
   - Incentive spirometry
   - Speech and swallow to prevent future aspiration
   - f/u cultures
   - Pulmonary toilet, chest PT, suction prn
   - Nebulizers for wheezing
   - Volume deplete; goal I/O even-(+)500cc
   - f/u ID consult
   .
   # Illeus: Continued secretions from NGT, beginning to have bowel
   movements with digital disimpaction.  Resolving ileus.
   - NGT pulled
   - d/c PPI as no longer intubated
   - Bowel regimen
   .
   # Anemia: Bumped appropriately s/p 2 u pRBC on [**11-22**], but goal to have
   hct closer to 30 in the setting of septic shock.
   - No transfusion needed today.
   .
   # Osteomyelitis s/p vertebrectomy: Continue vancomycin per ID
   recommendations, pain control, regular care per orthopedics.
   - Contact ortho re: anticoagulation; recommended avoiding Lovenox
   following surgery, as increased risk of bleed.  Recommended SC Heparin
   tid, and if necessary Coumadin.
   - ID contact[**Name (NI) **] re: long term osteomyelitis treatment, recommended
   Vancomycin x6-8 weeks
   - Pain control with fentanyl patch as now off of fentanyl gtt
   - Morphine for breakthrough and until fentanyl patch reaches
   therapeutic levels; consider d/c
ing Morphine tomorrow based on dosing
   requirements. 1-2mg q4h prn pain (prefer lower dose more frequently, as
   elderly)
   .
   # Hypertension: Holding medications at this time, will titrate as
   needed. Pressures ranging high, consider re-initiating home Metoprolol
   if pressures remain persistently elevated.
   .
   # DM: Continue insulin sliding scale, adjusted dose downwards given NPO
   status.
   .
   # Sinus Tachycardia: Likely secondary to stress, infection.  No
   evidence of ischemia on EKG.  Will continue to follow on telemetry.
   Resolved.
   .
   # Altered mental status: Mildly altered in context of multiple
   physiologic insults, post-operative.  Will continue to follow.
   Currently interactive and following commands; will monitor mental
   status now that extubated.
   .
   FEN: No IVF as diuresis goal today, replete electrolytes, NPO--will
   require speech & swallow once stable
 likely tomorrow.
   .
   Prophylaxis: Subcutaneous heparin, will d/w ortho if needs to be on
   lovenox.
   .
   Access: peripherals, R subclavian triple lumen
   .
   Code:  Full (discussed with family)
   .
   Communication: Patient, family
   .
   Disposition: possible call out to floor today; pending clinical
   improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-11-21**] 12:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2102-11-24 12:07:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo man with post-op PNA, s/p spine surgery.  Doing well
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2102-11-23**] 08:40 AM
 ARTERIAL LINE - STOP [**2102-11-23**] 03:30 PM
 MULTI LUMEN - STOP [**2102-11-23**] 05:44 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2102-11-22**] 04:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2102-11-23**] 12:11 AM
   Piperacillin - [**2102-11-24**] 07:47 AM
   Vancomycin - [**2102-11-24**] 08:45 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2102-11-24**] 01:42 AM
   Lorazepam (Ativan) - [**2102-11-24**] 05:05 AM
   Morphine Sulfate - [**2102-11-24**] 05:25 AM
   Heparin Sodium (Prophylaxis) - [**2102-11-24**] 08:56 AM
   Other medications:
   heparin s/q
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2102-11-24**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 78 (77 - 136) bpm
   BP: 112/57(70) {106/33(51) - 173/87(105)} mmHg
   RR: 21 (20 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.5 kg (admission): 71.3 kg
   CVP: -2 (-2 - 8)mmHg
   Total In:
                                                                    736 mL
                                                                    620 mL
   PO:
   TF:
   IVF:
                                                                    736 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  2,805 mL
                                                                  1,730 mL
   Urine:
                                                                  2,725 mL
                                                                  1,730 mL
   NG:
                                                                     80 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,069 mL
                                                                 -1,111 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: bases, Rhonchorous:
   b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   340 K/uL
   155 mg/dL
   1.3 mg/dL
   30 mEq/L
   3.4 mEq/L
   20 mg/dL
   99 mEq/L
   142 mEq/L
   31.5 %
   7.8 K/uL
        [image002.jpg]
                             [**2102-11-22**]  07:00 AM
                             [**2102-11-22**]  02:00 PM
                             [**2102-11-22**]  03:37 PM
                             [**2102-11-22**]  07:18 PM
                             [**2102-11-22**]  07:41 PM
                             [**2102-11-23**]  02:42 AM
                             [**2102-11-23**]  02:58 AM
                             [**2102-11-23**]  06:32 AM
                             [**2102-11-23**]  05:13 PM
                             [**2102-11-24**]  05:09 AM
   WBC
   13.7
   7.8
   Hct
   28.6
   27.4
   31.5
   Plt
   279
   340
   Cr
   0.9
   1.0
   1.3
   TCO2
   30
   29
   29
   27
   Glucose
   116
   146
   131
   149
   155
   Other labs: PT / PTT / INR:13.1/31.8/1.1, ALT / AST:71/147, Alk Phos /
   T Bili:339/1.4, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL, LDH:259 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 OSTEOMYELITIS
 PNEUMONIA, OTHER
 HYPOTENSION (NOT SHOCK)
   Respiratory failure:  continue incentive spirometry, pulmonary toilet
   renal failure:  autodiuresing.  hold further IVF
   PNA:  continue vanco/zosyn.   d/c cipro.  continue zosyn for total of 8
   days.  vanco long term for osteo
   spine surgery:  f/u with ortho re: lovenox and activity
   F/E/N: s+s to see if he can tolerate PO diet.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2102-11-21**] 12:26 PM
   Multi Lumen - [**2102-11-24**] 07:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes